US04743602
Ethyl 2-(5-t-butylthiophen-2-yl)-cyclopropanecarboxylate (4.49 g, 0.018 mol) was dissolved in methanol (45 ml) and a solution of potassium hydroxide (1.99 g, 0.036 mol) in water (45 ml) added dropwise at room temperature. The solution was refluxed for 3 hours, cooled to room temperature and carefully neutralised with 2M HCl. Saturated sodium chloride was added, the aqueous solution extracted with ethyl acetate (4×50 ml) and dried over anhydrous sodium sulphate. Removal of the solvent gave 2-(5-t-butylthiophen-2-yl)-cyclopropanecarboxylic acid (3.79 g, 94%).

reactant | Ethyl 2-(5-t-butylthiophen-2-yl)-cyclopropanecarboxylate | 0.018 mol, 4.49 g | C(C)(C)(C)C1=CC=C(S1)C1C(C1)C(=O)OCC | C14H20O2S
reactant | potassium hydroxide | 0.036 mol, 1.99 g | [OH-].[K+]
reactant | HCl | 2M | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 45 ml | CO | CH4O
solvent | water | 45 ml | O | H2O
product | 2-(5-t-butylthiophen-2-yl)-cyclopropanecarboxylic acid | 3.79 g, 94% | C(C)(C)(C)C1=CC=C(S1)C1C(C1)C(=O)O | C12H16O2S
